US04410536
2-Chloro-5-nitrovalerophenone
133 g of 2-chlorovalerophenone are added dropwise to 715 ml of fuming HNO3 at -15° C. and the mixture is poured onto 4 kg of ice. The aqueous phase is then extracted with chloroform and the organic phase is washed, dried and concentrated. The oily compound is further processed as the crude product.

reactant | 2-chlorovalerophenone | 133 g | ClC(C(=O)C1=CC=CC=C1)CCC | C11H13ClO
reactant | HNO3 | 715 ml | [N+](=O)(O)[O-] | HNO3
product | 2-Chloro-5-nitrovalerophenone | ClC(C(=O)C1=CC=CC=C1)CCC[N+](=O)[O-] | C11H12ClNO3
